US08754103B2
1-bromo-6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)imidazo[1,5-a]pyridine (50.0 mg, 0.118 mmol) was dissolved in ether (2 mL) in a 50 mL round bottomed flask under a nitrogen atmosphere. The solution was cooled down to −78° C. and treated with t-BuLi (1.7 M pentane solution, 0.15 mL, 0.255 mmol, 2.2 equiv.) for 5 min. To the mixture was added a solution of MeI (65.8 mg, 0.464 mmol, 4.0 equiv.) in ether (1 mL). The reaction was allowed to warm up to room temperature for 30 min. To the mixture was added H2O (30 mL) and the whole was extracted with EtOAc (30 mL×3). Combined organic layers were washed with brine (30 mL) and dried with Na2SO4. The solvent was removed under a reduced pressure to give a crude mixture. The crude mixture was purified by a preparative TLC (SiO2=1 plate, ether/hexane=1:3 Rf=0.4) to give 1-methyl-6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)imidazo[1,5-a]pyridine as light yellow crystals.

reactant | 1-bromo-6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)imidazo[1,5-a]pyridine | 0.118 mmol, 50.0 mg | BrC=1N=C(N2C1C=CC(=C2)C2=CC=C(C=C2)OC(F)(F)F)C(F)(F)F | C15H7BrF6N2O
reactant | t-BuLi | 0.255 mmol, 1.7 M, 0.15 mL, 2.2 equiv. | [Li]C(C)(C)C
reactant | MeI | 0.464 mmol, 65.8 mg, 4.0 equiv. | CI | CH3I
reactant | H2O | 30 mL | O | H2O
solvent | ether | 2 mL | CCOCC | C4H10O
solvent | ether | 1 mL | CCOCC | C4H10O
product | 1-methyl-6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)imidazo[1,5-a]pyridine | CC=1N=C(N2C1C=CC(=C2)C2=CC=C(C=C2)OC(F)(F)F)C(F)(F)F | C16H10F6N2O
